US06492416B1
42 mg of 4-bromo-2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone was dissolved in 15 ml THF and 15 ml ethanol, to which was added 178 mg of OXONE. The mixture was stirred overnight at room temperature. Then the solvent was removed in vacuo. The resulting residue was extracted with 50 ml water and methylene chloride (50 ml×3). The organic layer was concentrated under reduced pressure and the resulting residue was subjected to column chromatographic separation (hexane/ethylacetate=2:1) to afford 45 mg of desired 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 196-196.5° C. NMR: δ1.57 (s, 6H), 3.11 (s, 3H), 8.11 (d, J=8.7 Hz, 2H), 8.40 (d, J=8.7 Hz, 2H). IR (cm−1): 2928, 1703, 1559, 1270, 1148, 1076, 847. MS (EI): 346 (m).

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylthio)phenyl}-3(2H)-furanone | 42 mg | BrC=1C(C(OC1C1=CC=C(C=C1)SC)(C)C)=O | C13H13BrO2S
reactant | OXONE | 178 mg | OOS(=O)[O-].[K+]
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 45 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
